US06544985B2
4-(7-Fluoro-4-oxo-8-pyrrolidin-1-yl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-pyridine-2-carbonitrile
The title compound was prepared from {2-[3-(2-cyano-pyridin-4-yl)-3-oxo-propionylamino]-4-fluoro-5-pyrrolidin-1-yl-phenyl}-carbamic acid tert.-butyl ester (Example M47) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as an orange solid (54 mg).

reactant | {2-[3-(2-cyano-pyridin-4-yl)-3-oxo-propionylamino]-4-fluoro-5-pyrrolidin-1-yl-phenyl}-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCCC1)F)NC(CC(=O)C1=CC(=NC=C1)C#N)=O)=O | C24H26FN5O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(7-Fluoro-4-oxo-8-pyrrolidin-1-yl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-pyridine-2-carbonitrile | FC1=CC2=C(N=C(CC(N2)=O)C2=CC(=NC=C2)C#N)C=C1N1CCCC1 | C19H16FN5O
